datasets/10k__Tet_Int.csv
SMILES Labelled
"[OH:21][C:20]1(C)C([H])C(O)C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C(O)C([H])[C:20](C)=[OH+:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)[H])CCCCCC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([K])C(CCC)C(C)C1[H]>>[O:10]([K])C(CCC)C(C)C([C:20](OC)=[O:21])[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])C)C)CCCCCC>>CN([C:20]1(OC(C([O:21]1)C)C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][NH:10]C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)C>>CCN([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[H][S:10]C(CC)C(CC)[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(CC)[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)C)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)C)C)[O-:10])[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]CC)([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([O]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)C(C)=C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)/C(C)=C(C)\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCC[O+:10]([K])[C:21]([O-:20])(OCCCCCC)OC>>[O:20]=[C:21](OCCCCCC)OC.CCCCCC[O:10][K] 20=21;21,10=10"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH](CC)[S]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CCCCCC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OC1=CC=CC=C1)CCCCCC)C1=CC=CC=C1>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CC)CCCCCC 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1.[O-:21]CCCCCC>>CCC1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"[K][O:21]C.[C:20](=[O:10])(OCC)OCC>>[K][O+:21]([C:20]([O-:10])(OCC)OCC)C 21=20;20,10=10"
"[H][O:10]C([H])C(C)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H]N([C:20]([O-:10])(O[H])[Cl:21])CC>>[H]N([C:20](=[O:10])O[H])CC.[Cl-:21] 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OC1=CC=CC=C1)CCCCCC)[H]>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)[H] 10=20;20,21=21"
"[OH:10]C([H])C([H])/C(C)=C(C)\[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)=C(C)C([H])C([H])[OH+:10]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[O-:10]C(CCC)C([H])C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C([H])C(CCC)[O:10]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C([H])=C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)/C([H])=C([H])\C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C)[S]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"[K][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OCC)CC>>[K][O:21]CC.[C:20](=[O:10])(OC1=CC=CC=C1)OCC 10=20;20,21=21"
